US05288743
Aluminum chloride (4.1 g; 30.7 mmol) was suspended in 9 mL t-butylthiol and cooled to 0° C. Ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-methoxyindol-2-yl]-2,2-dimethylpropionate (5.0 g; 10.2 mmol), prepared as in step 3, in 12 mL dichloromethane was added and the reaction mixture was stirred at 0° C. for 10 min and then at ambient temperature for 3 hours. The reaction mixture was poured into ice and acidified with 10% aqueous HCl. The mixture was extracted three times with dichloromethane. The combined extracts were rinsed with brine, dried over magnesium sulfate and concentrated. The dark brown residue was filtered through silica gel eluting with 10% diethyl ether in dichloromethane. Evaporation of the solvent afforded ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-hydroxyindol-2-yl]-2,2-dimethylpropionate. m.p. 151°-152° C. 1H NMR (300 MHz, DMSO-d6) δ1.10 (t, J=7 Hz, 3H), 1.12 (s, 6H), 1.20 (s, 9H), 3.19 (bs, 2H), 4.04 (q, J=7 Hz, 2H), 5.41 (s, 2H), 6.58 (dd, J=9, 3 Hz, 1H), 6.83 (d, J=9 Hz, 2H), 6.98 (d, J=3 Hz, 1H), 7.13 (d, J=9 Hz, 1H), 7.32 (d, J=9 Hz, 2H), 8.88 (s, 1H). MS (DCI/NH3) 474 (M+H)+.

reactant | Aluminum chloride | 30.7 mmol, 4.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-methoxyindol-2-yl]-2,2-dimethylpropionate | 10.2 mmol, 5.0 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)SC(C)(C)C)CC(C(=O)OCC)(C)C)C=C1 | C27H34ClNO3S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | ethyl 3-[1-(4-chlorobenzyl)-3-(1,1-dimethylethylthio)-5-hydroxyindol-2-yl]-2,2-dimethylpropionate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)O)SC(C)(C)C)CC(C(=O)OCC)(C)C)C=C1 | C26H32ClNO3S
